US07119205B2
1-(4-Methoxymethoxy-phenyl)-ethanone
Chloromethyl methyl ether (19.2 mL, 252 mmol) was added dropwise to a 0° C. solution of 4-hydroxyacetophenone (6.855 g, 50.35 mmol) and triethylamine (8.4 mL, 60.42 mmol) in dichloromethane (100 mL). The solution was then allowed to warm to rt overnight, quenched with MeOH (40 mL), filtered and the filtrate concentrated and purified by flash chromatography to give the title compound which was used as is in the next step.

reactant | Chloromethyl methyl ether | 252 mmol, 19.2 mL | COCCl | C2H5ClO
reactant | 4-hydroxyacetophenone | 50.35 mmol, 6.855 g | CC(=O)C=1C=CC(=CC1)O | C8H8O2
reactant | triethylamine | 60.42 mmol, 8.4 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-(4-Methoxymethoxy-phenyl)-ethanone | COCOC1=CC=C(C=C1)C(C)=O | C10H12O3
